US06187783B1
After 2,3-(methylenedioxy)-6-[3-(t-butyldimethylsiloxy)propyl]-7-benzyloxy-8-methoxy-benzo[c]phenanthridine (374.4 mg, 0.644 mmol) was dissolved in tetrahydrofuran (3.2 mL), tetrabutylammonium fluoride (1M tetrahydrofuran solution, 1.9 mL) was added to the solution. The mixture was stirred overnight at room temperature. Water was added to the reaction mixture followed by extraction with methylene chloride. The organic phase was dried over anhydrous sodium sulfate and then concentrated in vacuo. The resulting residue was purified by silica gel column chromatography (eluted with methylene chloride) to provide 2,3-(methylenedioxy)-6-(3-hydroxypropyl)-7-benzyloxy-8-methoxy-benzo[c]phenanthridine (263.7 mg, yield 88%) as colorless powders.

reactant | 2,3-(methylenedioxy)-6-[3-(t-butyldimethylsiloxy)propyl]-7-benzyloxy-8-methoxy-benzo[c]phenanthridine | 0.644 mmol, 374.4 mg | C1OC=2C(=CC3=C(C=CC4=C5C=CC(=C(C5=C(N=C34)CCCO[Si](C)(C)C(C)(C)C)OCC3=CC=CC=C3)OC)C2)O1 | C35H39NO5Si
reactant | tetrabutylammonium fluoride | 1M, 1.9 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Water | O | H2O
solvent | tetrahydrofuran | 3.2 mL | O1CCCC1 | C4H8O
product | 2,3-(methylenedioxy)-6-(3-hydroxypropyl)-7-benzyloxy-8-methoxy-benzo[c]phenanthridine | 263.7 mg, yield 88% | C1OC=2C(=CC3=C(C=CC4=C5C=CC(=C(C5=C(N=C34)CCCO)OCC3=CC=CC=C3)OC)C2)O1 | C29H25NO5
